US08034812B2
Production of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylpropanamide
Using 6-iodoimidazo[1,2-b]pyridazin-2-amine (1.0 g, 3.85 mmol), N,N-dimethylacetamide (8.0 mL) and isobutyryl chloride (0.44 mL, 4.23 mmol) as starting materials and in the same manner as in Reference Example 5, the title compound (0.93 g, 73%) was obtained as a dark brown powder.

reactant | 6-iodoimidazo[1,2-b]pyridazin-2-amine | 3.85 mmol, 1.0 g | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
reactant | isobutyryl chloride | 4.23 mmol, 0.44 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | N,N-dimethylacetamide | 8.0 mL | CN(C(C)=O)C | C4H9NO
product | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylpropanamide | 0.93 g, 73% | IC=1C=CC=2N(N1)C=C(N2)NC(C(C)C)=O | C10H11IN4O
